US08030500B2
4-(3-Amino-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)-2-(pyrazin-2-yl)phenol
To a solution of 4-fluoro-1-(4-methoxy-3-(pyrazin-2-yl)phenyl)-1-(2-(trifluoromethyl) pyridin-4-yl)-1H-isoindol-3-amine (0.65 g, 1.36 mmol) in DCM (12.5 ml), boron tribromide (0.718 ml, 4.20 mmol) was added dropwise at 0° C. The mixture was stirred at 0° C. for 1 hour and then allowed to reach room temperature. Water (5 ml) was added and the pH was adjusted to approx 8 with aqeuous conc. NH3. The organic phase was separated and aqueous phase was extracted with DCM (20 mL). The combined organic phases were passed through a phase separator (Sorbent) and concentrated under reduced pressure. The residue was purified twice by preparative chromatography to give the title compound (210 mg, 32%).

reactant | 4-fluoro-1-(4-methoxy-3-(pyrazin-2-yl)phenyl)-1-(2-(trifluoromethyl) pyridin-4-yl)-1H-isoindol-3-amine | 1.36 mmol, 0.65 g | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)C(F)(F)F)C1=CC(=C(C=C1)OC)C1=NC=CN=C1)N | C25H17F4N5O
reactant | boron tribromide | 4.20 mmol, 0.718 ml | B(Br)(Br)Br | BBr3
reactant | Water | 5 ml | O | H2O
reactant | NH3 | N | H3N
solvent | DCM | 12.5 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-Amino-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)-2-(pyrazin-2-yl)phenol | 210 mg, 32% | NC1=NC(C2=CC=CC(=C12)F)(C1=CC(=NC=C1)C(F)(F)F)C1=CC(=C(C=C1)O)C1=NC=CN=C1 | C24H15F4N5O
